US07951803B2
A solution of 5.5 mL (41 mmol, 1.0 eq.) of dimethylformamide dimethyl acetal and 5.0 mL (41 mmol, 1.0 eq.) of pyruvic aldehyde dimethyl acetal was heated at 100° C. for 16 h. Methanol was removed in vacuo to afford a brown oil. To a solution of 15 mL of sodium ethoxide (21% in ethanol, 41 mmol, 1.0 eq.) was added 4.5 g (41 mmol, 1.0 eq.) of methyl guanidine HCl. The mixture was stirred for 10 min before a solution of the above described oil in 15 mL anhydrous ethanol was added. The mixture was heated to reflux for 24 h, allowed to cool to room temperature and filtered. The solvent was removed in vacuo to afford 2-methylaminopyrimidine-4-carboxaldehyde dimethyl acetal (I-10) as a dark brown oil which was used in the next step without further purification

reactant | dimethylformamide dimethyl acetal | 41 mmol, 5.5 mL, 1.0 eq. | COC(N(C)C)OC | C5H13NO2
reactant | pyruvic aldehyde dimethyl acetal | 41 mmol, 5.0 mL, 1.0 eq. | CC(=O)C(OC)OC | C5H10O3
reactant | sodium ethoxide | 41 mmol, 15 mL, 1.0 eq. | [O-]CC.[Na+]
reactant | methyl guanidine HCl | 41 mmol, 4.5 g, 1.0 eq. | Cl.CNC(=N)N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-methylaminopyrimidine-4-carboxaldehyde dimethyl acetal | COC(C1=NC(=NC=C1)NC)OC | C8H13N3O2
